US06420364B1
Morpholine-4-carboxylic Acid [1-(1-Phenylcarbamoyl-4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide.
The title compound is prepared from morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide hydrochloride and phenyl isocyanate in the presence of a tertiary amine base such as N-methylmorpholine in a solvent such as methylene chloride.

reactant | morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide hydrochloride | Cl.C(#N)C1(CCNCC1)NC(=O)C(CC(C)(C)C)NC(=O)N1CCOCC1
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Morpholine-4-carboxylic Acid [1-(1-Phenylcarbamoyl-4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide | C1(=CC=CC=C1)NC(=O)N1CCC(CC1)(C#N)NC(=O)C(CC(C)(C)C)NC(=O)N1CCOCC1 | C25H36N6O4
